US07786307B2
e) tert-Butyl (1(S)-hydroxymethyl-3(S)-{[2-(3-methoxypropoxy)benzoylamino]methyl}-4-methylpentyl)carbamate
The solution of 3.70 g of tert-butyl 4(S)-(2(S)-{[2-(3-methoxypropoxy)benzoylamino]methyl}-3-methylbutyl)-2,2-dimethyloxazolidine-3-carbamate in 70 ml of methanol is admixed with 0.143 g of p-toluenesulphonic acid monohydrate and stirred at room temperature over 14 hours. The reaction mixture is concentrated by evaporation and the title compound is obtained from the residue by means of flash chromatography (SiO2 60F) as a slightly yellowish oil. Rf=0.16 (3:1 EtOAc-heptane); Rt=4.23 (gradient I).

reactant | tert-butyl 4(S)-(2(S)-{[2-(3-methoxypropoxy)benzoylamino]methyl}-3-methylbutyl)-2,2-dimethyloxazolidine-3-carbamate | 3.70 g | COCCCOC1=C(C(=O)NC[C@@H](C[C@@H]2N(C(OC2)(C)C)NC(=O)OC(C)(C)C)C(C)C)C=CC=C1 | C27H45N3O6
reactant | p-toluenesulphonic acid monohydrate | 0.143 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | methanol | 70 ml | CO | CH4O
product | tert-Butyl (1(S)-hydroxymethyl-3(S)-{[2-(3-methoxypropoxy)benzoylamino]methyl}-4-methylpentyl)carbamate | OC[C@H](C[C@@H](C(C)C)CNC(C1=C(C=CC=C1)OCCCOC)=O)NC(OC(C)(C)C)=O | C24H40N2O6
